US07129244B2
Step 1: Synthesis of 2-aminomethyl-4-methoxy-3,5-dimethylpyridine
A solution of 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine HCl (Aldrich 3.7 g, 16.6 mmole) in 7N NH3/MeOH (Aldrich, 200 mLs) was refluxed in a steel bomb for 15 hours. Removed the solvent under reduced pressure, the residue was taken into 5% MeOH/CH2Cl2 and filtering it through a thin layer of silica gel afforded the product at 76% yield. HPLC RT was 2.850 min. 1HNMR (CDCl3) δ 8.18 (s, 1H), 4.32 (s, 2H), 3.76 (s, 3H), 2.23 (s, 3H), 2.18 (s, 3H).

reactant | 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine HCl | 16.6 mmole, 3.7 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | NH3 MeOH | 7N, 200 mLs | N.CO
product | 2-aminomethyl-4-methoxy-3,5-dimethylpyridine | 76% yield | NCC1=NC=C(C(=C1C)OC)C | C9H14N2O
